US07723368B2
Step 5: 2-(3,3-Difluoropropoxy)-4-ethynyl-1-fluorobenzene
To a solution of the crude ((3-(3,3-difluoropropoxy)-4-fluorophenyl)ethynyl)trimethylsilane (2.0 g) from the previous step in MeOH (17.5 mL) was added K2CO3 (9.65 g, 69.8 mmol) at room temperature. The reaction mixture was stirred for 1.5 h after which the mixture was filtered. The filter cake was washed with MeOH and the combined filtrate was concentrated over 10 g Celite. Flash chromatography (SiO2, % EtOAc 99% Hexanes to 5:95 EtOAc:Hexanes) provided 700 mg, 76%, of the title compound as a light yellow oil.

reactant | ((3-(3,3-difluoropropoxy)-4-fluorophenyl)ethynyl)trimethylsilane | 2.0 g | FC(CCOC=1C=C(C=CC1F)C#C[Si](C)(C)C)F | C14H17F3OSi
reactant | K2CO3 | 69.8 mmol, 9.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 17.5 mL | CO | CH4O
product | 2-(3,3-Difluoropropoxy)-4-ethynyl-1-fluorobenzene | FC(CCOC1=C(C=CC(=C1)C#C)F)F | C11H9F3O
